US09353075B2
Step 1. Preparation of 3-(4-phenylbutyl)-oxetan-3-ol
Under argon atmosphere at −45° C., to a stirred mixture of Lithium in pellets (0.129 g, 18.7 mmol) suspended in dry Et2O (15 mL), 4-bromo-butylbenzene (1.5 g, 7.03 mmol) in dry Et2O (10 mL), was added dropwise. The reaction was left to stir at 0° C. for 3 h, then the mixture was transferred via a cannula to a solution of 3-oxetanone (0.4 g, 5.55 mmol) in dry THF (10 mL), previously cooled to −78° C. After 3 h at −78° C., the reaction mixture was quenched with a saturated NH4Cl solution, the organic solvents removed under reduced pressure. The crude mixture was then dissolved in CH2Cl2, dried over Na2SO4, concentrated to dryness and subjected to column chromatography using a Teledyne ISCO apparatus, eluting with Cy/TBME (from 100:0 to 70:30) to afford a pure compound (0.4 g, 35%) as colorless oil. 1H NMR (CDCl3): δ 1.41-1.55 (m, 2H), 1.65-1.78 (m, 2H), 1.84-1.94 (m, 2H), 2.62-2.73 (m, 2H), 4.52 (d, J=7.2 Hz, 2H), 4.58 (d, J=7.0 Hz, 2H), 7.21 (dd, J=5.4, 7.2 Hz, 3H), 7.27-7.34 (m, 2H).

reactant | Lithium | [Li] | Li
reactant | 4-bromo-butylbenzene | 7.03 mmol, 1.5 g | BrCCCCC1=CC=CC=C1 | C10H13Br
reactant | 3-oxetanone | 5.55 mmol, 0.4 g | O1CC(C1)=O | C3H4O2
solvent | Et2O | 15 mL | CCOCC | C4H10O
solvent | Et2O | 10 mL | CCOCC | C4H10O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(4-phenylbutyl)-oxetan-3-ol | 0.4 g, 35% | C1(=CC=CC=C1)CCCCC1(COC1)O | C13H18O2
